US09302991B2
(−)-2-acetamido-N-(1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)isonicotinamide (single enantiomer)
A mixture of (−)-1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethanamine hydrochloride (1.50 g, 5.12 mmol, Amine-1, single enantiomer), 2-acetamidoisonicotinic acid (1.01 g, 5.63 mmol), HBTU (2.33 g, 6.14 mmol) and triethylamine (3.57 mL, 25.6 mmol) in dichloromethane (51 mL) is stirred at room temperature for 15 hours. The reaction mixture is poured into water (50 mL) and extracted with dichloromethane (50 mL). The organic layer is dried over sodium sulfate and concentrated under reduced pressure. The residue is recrystallized from ethyl acetate to give 1.30 g (66% yield) of the title compound as a white solid.

reactant | (−)-1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethanamine hydrochloride | 5.12 mmol, 1.50 g | Cl.FC(COC1=CC=C(C=N1)C(C)N)(F)F
reactant | 2-acetamidoisonicotinic acid | 5.63 mmol, 1.01 g | C(C)(=O)NC=1C=C(C(=O)O)C=CN1 | C8H8N2O3
reactant | HBTU | 6.14 mmol, 2.33 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 25.6 mmol, 3.57 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 51 mL | ClCCl | CH2Cl2
solvent | water | 50 mL | O | H2O
product | (−)-2-acetamido-N-(1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)isonicotinamide | 1.30 g, 66% yield | C(C)(=O)NC=1C=C(C(=O)NC(C)C=2C=NC(=CC2)OCC(F)(F)F)C=CN1 | C17H17F3N4O3
